US06538152B1
To a solution of ethyl 2-(5-chloro-2-methoxy-4-oxiranylphenoxy)acetate (129 mg) in ethyl acetate (2.5 ml) was added 10% palladium carbon (13 mg), and the mixture was stirred for 3 hours at room temperature under a hydrogen atmosphere. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. Purification of the residue by flash column chromatography on silica gel (eluent: hexane/ethyl acetate=1/1) gave ethyl 2-[5-chloro-4-(2-hydroxyethyl)-2-methoxyphenoxy]acetate (86 mg).

reactant | ethyl 2-(5-chloro-2-methoxy-4-oxiranylphenoxy)acetate | 129 mg | ClC=1C(=CC(=C(OCC(=O)OCC)C1)OC)C1OC1 | C13H15ClO5
solvent | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 13 mg | [C].[Pd]
product | ethyl 2-[5-chloro-4-(2-hydroxyethyl)-2-methoxyphenoxy]acetate | 86 mg | ClC=1C(=CC(=C(OCC(=O)OCC)C1)OC)CCO | C13H17ClO5
